US07723368B2
Step 2) 3-(4-Difluoromethoxyphenylethynyl)-(1-fluoro-but-3-enyl)-benzene
3-[3-(4-Difluoromethoxy-phenylethynyl)-phenyl]-cyclobutanol (0.820 gm, 2.61 mmol) was dissolved in dichloromethane (10 ml) and treated with (diethylamino)sulfur trifluoride (DAST, 0.500 gm, 3.20 mmol). Upon completion of reaction as determined by thin layer chromatography (TLC) the crude material was absorbed onto silica and purified by column chromatography (gradient elution; 0%-10% EtOAc in hexanes) to yield an oil 267 mg (32%); 1H NMR (500 MHz, DMSO-d6) δ ppm 2.55-2.75 (m, 2H) 4.97-5.20 (m, 2H) 5.52-5.83 (m, 2H) 7.04-7.32 (m, 3H) 7.40-7.48 (m, 2H) 7.50-7.55 (m, 2H) 7.62 (d, J=8.8 Hz, 2H); MS (EI) m/z 316 [M+·].

reactant | 3-[3-(4-Difluoromethoxy-phenylethynyl)-phenyl]-cyclobutanol | 2.61 mmol, 0.820 gm | FC(OC1=CC=C(C=C1)C#CC=1C=C(C=CC1)C1CC(C1)O)F | C19H16F2O2
reactant | (diethylamino)sulfur trifluoride | 3.20 mmol, 0.500 gm | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-(4-Difluoromethoxyphenylethynyl)-(1-fluoro-but-3-enyl)-benzene | 267 mg, 32% | FC(OC1=CC=C(C=C1)C#CC=1C=C(C=CC1)C(CC=C)F)F | C19H15F3O
